US06518272B2
Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(pyrimidin-2-yl)-piperazin-1-yl]-ethyl}-amide
To a solution of 0.2 g (0.66 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(pyrimidin-2-yl)-piperazin-1-yl]-ethyl}-amine and 0.18 mL (1.32 mmol) of triethylamine in 10 mL of dichloromethane at 0° C. was added dropwise 0.11 g (0.73 mmol) of cyclohexanecarboxylic acid chloride in dichloromethane (2 mL). The reaction mixture was allowed to stir under nitrogen for one hour at 0° C. and was then concentrated on a rotary evaporator, diluted with ethyl acetate and washed with H2O and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (dichloromethane/methanol) and converted to the hydrochloride salt of the title compound with ethereal HCl to yield 0.21 g (68%) as a white solid; mp=121-123° C.; MS (+) ESI m/z=414 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(pyrimidin-2-yl)-piperazin-1-yl]-ethyl}-amine | 0.66 mmol, 0.2 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=NC=CC=N1)N | C17H29N5
reactant | triethylamine | 1.32 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarboxylic acid chloride | 0.73 mmol, 0.11 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(pyrimidin-2-yl)-piperazin-1-yl]-ethyl}-amide | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=NC=CC=N1)NC(=O)C1CCCCC1 | C24H39N5O
